US07696231B2
2-Hydroxy-5-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]sulfonyl}benzoic acid
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 5-(hydrazinosulfonyl)-2-hydroxybenzoic acid. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 108 mg of the title compound (59%) as a yellow solid in 92.8% purity by HPLC (Rt: 4.85, gradient of 10 min, MaxPlot detection between 230 and 400 mn).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 5-(hydrazinosulfonyl)-2-hydroxybenzoic acid | N(N)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C7H8N2O5S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Hydroxy-5-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]sulfonyl}benzoic acid | 108 mg, 59% | OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)NN=C1C(NC2=CC=C(C=C12)I)=O | C15H10IN3O6S
